US07449486B2
Step B: Preparation of {3-[5-(3-fluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester:
To a solution of {3-[5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester (400 mg, 0.96 mmol) in DCM (4 mL) was added triethylamine (130 mg, 1.3 mmol), followed by isobutyryl chloride (130 mg, 1.3 mmol). After stirring for 1 hour, the reaction was quenched by the addition of methanol (0.1 mL). The reaction mixture was concentrated and purified by flash column chromatography (15:1 Hexanes/EtOAc) to provide the product (350 mg, 75%).

reactant | {3-[5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 0.96 mmol, 400 mg | C(C)(C)(C)OC(NCCCC1(SC(=NN1)C1=CC(=CC=C1)F)C1=CC=CC=C1)=O | C22H26FN3O2S
reactant | triethylamine | 1.3 mmol, 130 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 1.3 mmol, 130 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | {3-[5-(3-fluorophenyl)-3-isobutyryl-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 350 mg, 75% | C(C)(C)(C)OC(NCCCC1(SC(=NN1C(C(C)C)=O)C1=CC(=CC=C1)F)C1=CC=CC=C1)=O | C26H32FN3O3S
